US07288677B2
4,4′-Methylenebis(2,6-diethylbenzeneamine) (4.0 g), Pt(S)/C (0.2 g), sulfonated divinylbenzene/styrene copolymer (0.2 g; H ion form, sold as Amberlyst-15 by Rohm and Haas Company, Philadelphia, Pa.), and methyl ethyl ketone (50 g) were charged into a 100 mL metal autoclave at 22° C. The closed autoclave was purged 3 times with 125 psig (9.63×105 Pa) of H2 at 22° C. to remove traces of air. The reaction mixture was then heated at 95° C. under 125 psig (9.63×105 Pa) of H2 for 3 hours (until no further H2 uptake was observed). The product mixture was cooled to 22° C. and degassed. A diluted product sample was analyzed by gas chromatography (GC; 180° C. for 5 minutes at 10° C. per minute rate; final temperature, 270° C.). The GC data (normalization method) showed 100% conversion of 4,4′-methylenebis(2,6-diethylbenzeneamine) and a 94% yield of N,N′-di-sec-butyl-4,4′-methylenebis(2,6-diethylbenzeneamine). NMR analysis (with internal standard) of a neat product sample showed a purity of 94.75%.

reactant | 4,4′-Methylenebis(2,6-diethylbenzeneamine) | 4.0 g | C(C1=CC(=C(C(=C1)CC)N)CC)C1=CC(=C(C(=C1)CC)N)CC | C21H30N2
catalyst | Pt(S)/C | 0.2 g | [Pt] | Pt
solvent | methyl ethyl ketone | 50 g | C(C)C(=O)C | C4H8O
product | N,N′-di-sec-butyl-4,4′-methylenebis(2,6-diethylbenzeneamine) | 94% yield | C(C)(CC)NC1=C(C=C(C=C1CC)CC1=CC(=C(C(=C1)CC)NC(C)CC)CC)CC | C29H46N2
